US04250096
A mixture of 20.9 g (0.05 mol) of N-(1-ethyl-10,10-dimethyl-11-hydroxyundecyl)-3-nitrophthalimide and 3.55 g (0.055 mol) of sodium azide in 100 ml of dimethylsulphoxide is stirred for 24 hours at 80° C. The solution is evaporated in vacuo and the residue is diluted with 300 ml of water. The resulting emulsion is extracted with twice 100 ml of diethyl ether. The ether extracts are first dried with anhydrous sodium sulphate, and then evaporated. 14.7 g (71% of theory) of N-(1-ethyl-10,10-dimethyl-11-hydroxyundecyl)-3-azidophthalimide are obtained in the form of a viscous oil which cannot be distilled.

reactant | N-(1-ethyl-10,10-dimethyl-11-hydroxyundecyl)-3-nitrophthalimide | 0.05 mol, 20.9 g | C(C)C(CCCCCCCCC(CO)(C)C)N1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O | C23H34N2O5
reactant | sodium azide | 0.055 mol, 3.55 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
product | N-(1-ethyl-10,10-dimethyl-11-hydroxyundecyl)-3-azidophthalimide | 14.7 g, 71% | C(C)C(CCCCCCCCC(CO)(C)C)N1C(C=2C(C1=O)=C(C=CC2)N=[N+]=[N-])=O | C23H34N4O3
